US07166629B2
36.4 mg of 4-ethoxyphenyl isocyanate are added to 80 mg of 3-amino-5-phenyl-6-chloro-1-[(2-trimethylsilylethoxy)methyl]indazole in 1 ml of THF. The mixture is heated at 50° C. for 1 h and is then hydrolyzed in a saturated KH2PO4 solution and extracted with methylene chloride. After drying and evaporating, the crude product is purified by chromatography on silica with an AcOEt/hexane mixture. The product obtained is deprotected in 2 ml of a 1/1 MeOH/2N HCL mixture at reflux for 3 h. 62.5 mg of 1-(6-chloro-5-phenyl-1H-indazol-3-yl)-3-(4-ethoxyphenyl)urea are obtained.

reactant | 4-ethoxyphenyl isocyanate | 36.4 mg | C(C)OC1=CC=C(C=C1)N=C=O | C9H9NO2
reactant | 3-amino-5-phenyl-6-chloro-1-[(2-trimethylsilylethoxy)methyl]indazole | 80 mg | NC1=NN(C2=CC(=C(C=C12)C1=CC=CC=C1)Cl)COCC[Si](C)(C)C | C19H24ClN3OSi
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | MeOH | 2N | CO | CH4O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 1-(6-chloro-5-phenyl-1H-indazol-3-yl)-3-(4-ethoxyphenyl)urea | 62.5 mg | ClC1=C(C=C2C(=NNC2=C1)NC(=O)NC1=CC=C(C=C1)OCC)C1=CC=CC=C1 | C22H19ClN4O2
